Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
phenobarbital
 
Attending: ___.
 
Chief Complaint:
Epilepsy
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HPI: Mr. ___ is a ___ year old ambidextrous man with history
of seizure disorder, fronto-temporal stroke (___),
intellectual disability and depression that presented for
admission to neurology service for evaluation of events
concerning for seizure. Patient is currently followed by Dr.
___ was last seen on ___.

Patient started having seizures as a child and has been on
anti-epileptic medications since then. He has been on multiple
medications and is currently on VPA ER 1500 mg qPM and 
Zonisamide
100 mg qPM (recently increased). Patient's seizures have been
well controlled during the past. The last seizure was in ___. 

He presented for evaluation in epilepsy clinic given he has had
several episodes concerning for seizures. These events have been
particularly following assaults which occurred on ___ by one child.  Events are described as: 
gets
no warning, but feels dizzy, notices whole body gets pins and
needles, feels like going to faint. Feels nauseated. Has had
these symptoms with prior concussions. Symptoms can improve with
eating, or rest.  Overall lasts for ___ minutes before
resolving. This is all per prior records. The patient does not
recall these symptoms and when asked why he is here, and which
symptoms we are trying to capture, he is not sure. 

Patient was recently seen in Concussion clinic given the history
of his recent head injuries where he had Medrol/lidocaine
injections placed and Marcaine.  He was also started on
Magnessium supplementation for light sensitivity.  During that
visit, it was felt like his current symptoms are most likely
secondary to stress response given the recent incidents but not
to concussion itself.

Seizure History: (taken from clinic notes)
He has two seizure types-
1. Beginning with an aura of feeling numb all over then loss of
awareness.  He reports falling to the ground and "flopping all
over", sustaining abrasions.  After the event is over, he is
confused and upset afterwards for many minutes. His last of this
type occurred in
___.
2. Feeling that his body is dropping; this lasts for less than
one second. These occur frequently, though patient does not
remember these episodes currently. 

Prior medications-
phenobarbital - unknown reaction in childhood
mebaral - one from age ___ until age ___ years
Tegretol - no efficacy
Neurontin - no efficacy
Trileptal - no efficacy

Has had head trauma with sports and from prior assault.

Prior studies- (from most recent)
1. EEG ___ awake and drowsy EEG with independent 
R>L
mid-temporal spike discharges.
2. EEG ___ at ___ (report available in
OMR through outside records):  Some sharp bursts of slowing in
temporal regions, particularly on the left, likely related to
impending drowsiness.
3. Inpatient LTM:  about ___ years ago at ___, told he had a few
spikes in the right temporal lobe

 
Past Medical History:
Past medical history:
___
Diagnosed at ___ after presenting with mouth and left
side of body drooping/weak.  Brain MRI showed acute-subacute 
left
frontotemporal transcortical infarct and MRA showed distal right
MCA arborization, suggestive of an old thromboembolic event. 
Started on ASA and statin.  Subsequently saw Dr. ___: 
hypercoagulable bloodwork drawn, but results not available.

Cognitive impairment in childhood - 
Diagnosed with learning disability, received speech therapy, was
in a ___ program. Neuropsych testing (___) showed borderline
intellectual functioning with multiple impairments, consistent
with a diagnosis of developmental intellectual impairment.  
These
are generalized not lateralized. Should be considered 100%
disabled. 

Depression - 
Sees therapist named ___ at ___ 
___
in ___.

S/p back injury - MVA in ___.

Hypercholesterolemia - on a statin.

Vitamin D deficiency - takes vitamin D.

Allergies (phenobarbital as above).

 
Social History:
___
Family History:
Family history:  
Has an older full brother and an older half-brother (same
mother), has two children ___ year old
daughter with a new baby, ___ year old son) both healthy.  No
known medical problems with parents.
 
Physical Exam:
Examination: 
Vitals: 98.0 114/66 77 18 99% RA
General: Awake, cooperative, NAD, has a stutter.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Difficulty relating the
symptoms he was admitted for. Attentive, able to name days of 
the
week backward without difficulty. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. He has a stutter. Speech was not dysarthric.
Able to follow both midline and appendicular commands. There was
no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 3mm and brisk, though he has
significant light sensitivity. EOMI without nystagmus. Normal
saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___  5   5    5  5     5     5   
R  5    ___   ___  5   5    5  5     5     5   

-Sensory: No deficits to light touch, proprioception intact in
the big toes. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    0   0
R  2  2    2    0   0
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria finger-nose test was normal.

-Gait: deferred
Discharge Physical Exam:
Gen- not in acute distress

Neuro
AAOx3. Speech is fluent and coherents.   Speech is slow
PERRL, EOMI, no facial droop
Full strength throughout
No pronator drift
No dysmetria on FNF
 
Pertinent Results:
___ 09:40PM   GLUCOSE-122* UREA N-11 CREAT-1.1 SODIUM-142 
POTASSIUM-4.5 CHLORIDE-104 TOTAL CO2-29 ANION GAP-14
___ 09:40PM   estGFR-Using this
___ 09:40PM   ALT(SGPT)-49* AST(SGOT)-37 LD(LDH)-156 ALK 
PHOS-62 TOT BILI-0.5
___ 09:40PM   CALCIUM-9.7 PHOSPHATE-3.8 MAGNESIUM-2.2
___ 09:40PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:40PM   WBC-6.4 RBC-4.58* HGB-15.5 HCT-44.0 MCV-96 
MCH-33.8* MCHC-35.2 RDW-12.4 RDWSD-44.0
___ 09:40PM   PLT COUNT-240
___ 08:14PM URINE  HOURS-RANDOM
___ 08:14PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 08:14PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 08:14PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.5 
LEUK-NEG

Recent Imaging:  
MRI ___-
1. Nonspecific and nonenhancing T2/FLAIR white matter
hyperintensity of the left frontal lobe and left frontal and
temporal operculum, right medial temporal lobe and right 
parietal
lobe.  Given history of possible seizure in 
cognitive impairment, this is suggestive of focal cortical
dysplasia although sequela prior trauma is also a consideration
given the gradient echo susceptibility foci seen in the right
parietal lobe. 
2. Demyelinating disease, ischemia or infectious/inflammatory
etiology are also considerations.  Neoplasm is considered
unlikely given lack of mass effect. 
3. Additional scattered punctate periventricular and subcortical
T2/FLAIR nonenhancing white matter hyperintensities are also
noted. 
4. There is no mesial temporal sclerosis.  The left insular gray
matter appears thinned and blurred.  
5. No acute infarct. 
 
Brief Hospital Course:
Mr. ___ is a ___ yo man with history of seizure disorder, 
fronto-temporal stroke (___), intellectual disability, 
depression that presented for admission to neurology service for 
quantification and characterization of events.  Started to wean 
on VPA ___.  Psychiatry was consulted who recommended 
starting Risperidone 0.5 mg QHS given potential mood changes 
which was then increased to 1 mg BID and patient tolerated well. 
 His VPA was completely weaned off without any significant 
changes on EEG.  Zonisamide was then increased to 200 mg QHS 
which patient tolerated well.  Patient was continued to be 
monitored on EEG which didnt show any singifcant changes or 
epileptiform acitvity througout the admission.  Patient was 
discharged home on zonisamide 200 mg QHS and Riseperidone 1 mg 
BID.  Patient was complaining of headache for which his 
Gabapentin was increased to 600 mg QPM.

Patient will follow up with Dr. ___ as indicated and 
with Dr. ___ for further management.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Aspirin 81 mg PO DAILY 
3. Divalproex (EXTended Release) 1500 mg PO DAILY 
4. Zonisamide 100 mg PO DAILY 
5. Gabapentin 300 mg PO QHS 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Gabapentin 600 mg PO QPM 
RX *gabapentin 600 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*3
4. Zonisamide 200 mg PO QPM 
RX *zonisamide 100 mg 2 capsule(s) by mouth QPM Disp #*60 
Capsule Refills:*3
5. RISperidone 1 mg PO BID 
RX *risperidone [Risperdal] 1 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*1

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Epilepsy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the Epilepsy service for EEG monitoring and 
medication management. During your admission, your medications 
were changed and you were continuously monitored on EEG.  Your 
EEG findings were stable throughout your admission.  
Psychiatrist (Dr. ___ evaluated you and recommended starting 
new medication called Risperidone for your anxiety/mood changes. 
 You will follow up with Dr. ___ staff to call 
you for appointment) and Dr. ___ the next 4 weeks.  
Please continue taking your medications as prescribed and 
instructed.
 
Followup Instructions:
___